US08017792B2
Synthesis of 1-(benzyloxy)-2-bromo-4-(4-ethoxybenzyl)benzene
Then, Et3SiH (6.7 mL, 0.042 mol) and BF3.Et2O (2.7 mL, 0.021 mol) were added sequentially to a chloroform (90 mL) solution of [4-(benzyloxy)-3-bromophenyl](4-ethoxyphenyl)methanol (8.7 g, 0.021 mol) at −15° C. After stirred for one hour, the reaction mixture was warmed to room temperature. After the reaction mixture was added with a saturated sodium carbonate aqueous solution and extracted with chloroform, the organic layer was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain a colorless oily title compound (8.8 g, quant).

reactant | Et3SiH | 0.042 mol, 6.7 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.021 mol, 2.7 mL | B(F)(F)F.CCOCC
reactant | [4-(benzyloxy)-3-bromophenyl](4-ethoxyphenyl)methanol | 0.021 mol, 8.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)OCC)Br | C22H21BrO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(benzyloxy)-2-bromo-4-(4-ethoxybenzyl)benzene | 8.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC1=CC=C(C=C1)OCC)Br | C22H21BrO2
